* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise powersupply.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
*============== Begin SPICE netlist of main design ============
U2 eight ten eleven LM317
C4 eleven nine 1uf 
C3 ten nine 22uF 
R1 nine nine ten 5k
C2 eight nine 0.1uF 
R2 ten eleven 220 
C1 eight nine 2200uF 
S1 one two <No valid value attribute found>
T1 five three seven six <No valid value attribute found>
F1 two three <No valid value attribute found>
U1 seven six eight nine DIODE-BRIDGE
.end
